US08049016B2
Preparation of 1-(5-acetyl-4-methylthiazol-2-yl)-3-(cyclopropylmethyl)imidazolidin-2-one
To a solution of 1-(5-acetyl-4-methylthiazol-2-yl)imidazolidin-2-one (2.25 g, 10.00 mmol), tetrabutylammonium iodide (0.10 g) and potassium carbonate (3.50 g, 25.27 mmol) in tetrahydrofuran (100 mL) was added cyclopropylmethyl bromide (2.0 mL, 20.88 mmol). The reaction mixture was heated to reflux for 50 hours. The solvent was removed in vacuo, and the residue was washed with water and hexanes to afford the title compound in 33% yield (0.94 g): mp 103-104° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 4.14-4.05 (m, 2H), 3.72-3.69 (m, 2H), 3.19 (d, J=6.0 Hz, 2H), 2.57 (s, 3H), 2.44 (s, 3H), 0.99-0.89 (m, 1H), 0.59-0.55 (m, 2H), 0.27-0.22 (m, 2H); MS (ES+) m/z 280.2 (M+1).

reactant | 1-(5-acetyl-4-methylthiazol-2-yl)imidazolidin-2-one | 10.00 mmol, 2.25 g | C(C)(=O)C1=C(N=C(S1)N1C(NCC1)=O)C | C9H11N3O2S
reactant | potassium carbonate | 25.27 mmol, 3.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyclopropylmethyl bromide | 20.88 mmol, 2.0 mL | C1(CC1)CBr | C4H7Br
catalyst | tetrabutylammonium iodide | 0.10 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-(5-acetyl-4-methylthiazol-2-yl)-3-(cyclopropylmethyl)imidazolidin-2-one | 33% yield | C(C)(=O)C1=C(N=C(S1)N1C(N(CC1)CC1CC1)=O)C | C13H17N3O2S
